US06498179B1
A mixture of ethyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepentanoate(10.0 g), 2-methylimidazole(7.20 g), potassium carbonate(12.1 g) and N,N-dimethylformamide(80 ml) was stirred for 2 hours at 120-130° C. Water was added to the reaction mixture to give ethyl 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepentanoate(9.97 g, 88%). This was recrystallized from ethyl acetate-isopropyl ether to give colorless prisms. mp 93-94° C.

reactant | ethyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepentanoate | 10.0 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCCC(=O)OCC | C16H17Cl2NO3
reactant | 2-methylimidazole | 7.20 g | CC=1NC=CN1 | C4H6N2
reactant | potassium carbonate | 12.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepentanoate | 9.97 g, 88% | ClC1=CC=C(C=C1)C=1N=C(OC1CCCCC(=O)OCC)N1C(=NC=C1)C | C20H22ClN3O3
